### PR TITLE
[Merged by Bors] - feat: Nobeling's theorem

### PR DESCRIPTION
**Pull request by dagurtomas**
Nobeling's theorem: the Z-module of locally constant maps from a profinite set to the integers is free.

-  [x] depends on: #6360 
-  [x] depends on: #6373 
-  [x] depends on: #6395 
-  [x] depends on: #6396  
-  [x] depends on: #6432
-  [x] depends on: #6520
-  [x] depends on: #6578
-  [x] depends on: #6589 
-  [x] depends on: #6722 
-  [x] depends on: #7829 
-  [x] depends on: #7895 
-  [x] depends on: #7896 
-  [x] depends on: #7897  
-  [x] depends on: #7899 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 1]
```diff
@@ -0,0 +1,1918 @@
...
+
+The basis will consist of products `e S iᵣ * ⋯ * e S i₁` with `iᵣ > ⋯ > i₁` which cannot be written
+as linear combinations of lexicographically smaller products.
+
+What is proved by ordinal induction is that this set is linearly independent. The fact that it
+spans can be proved directly.
+
+## References
+
+- [scholze2019condensed]: *Lectures on Condensed Mathematics*, 2019.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:44]: Can you please add a BibTeX entry in the common .bib file of the repo?

**Review by jcommelin — COMMENTED** [review]
This file is about 2000 lines... :open_mouth: 
Do you think there are some pieces that can be reused and hence split into other files?

**Comment by dagurtomas** [comment]
The nine PRs that have been merged, that this one depends on, contain all the stuff that I could find that was of independent interest. I think the stuff in the `NobelingProof` namespace will never be used outside this proof. But I could split this file into smaller ones, maybe create a `Nobeling` folder inside `Profinite`?

**Comment by jcommelin** [comment]
Hmm, if nothing else can be split out, it doesn't really make sense to split the file.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:44]: Aah, sorry. I somehow missed it. Then all is fine.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 2]
```diff
@@ -0,0 +1,1918 @@
...
+  · obtain ⟨y, hy⟩ := h
+    obtain ⟨z, hz⟩ := hy.1
+    rw [← hy.2, ← hz.2]
+    suffices Proj J z = (Proj J ∘ Proj K) z by exact ⟨z, ⟨hz.1, this⟩⟩
+    rw [proj_comp_of_subset J K h]
+  · obtain ⟨y, hy⟩ := h
+    dsimp [Set.proj]
+    rw [← Set.image_comp]
+    refine ⟨y, ⟨hy.1, ?_⟩⟩
+    rw [← hy.2, proj_comp_of_subset J K h]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:130]:
```suggestion
  · obtain ⟨y, hy, rfl⟩ := h
    obtain ⟨z, hz, rfl⟩ := hy
    suffices Proj J z = (Proj J ∘ Proj K) z by exact ⟨z, ⟨hz, this⟩⟩
    rw [proj_comp_of_subset J K h]
  · obtain ⟨y, hy, rfl⟩ := h
    dsimp [Set.proj]
    rw [← Set.image_comp]
    refine ⟨y, ⟨hy, ?_⟩⟩
    rw [proj_comp_of_subset J K h]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 3]
```diff
@@ -0,0 +1,1918 @@
...
+@[simps!]
+def ProjRestricts (h : ∀ i, J i → K i) : C.proj K → C.proj J :=
+  Homeomorph.setCongr (proj_eq_of_subset C J K h) ∘ ProjRestrict (C.proj K) J
+
+@[simp]
+theorem continuous_projRestricts (h : ∀ i, J i → K i) : Continuous (ProjRestricts C h) :=
+  Continuous.comp (Homeomorph.continuous _) (continuous_projRestrict _ _)
+
+theorem surjective_projRestricts (h : ∀ i, J i → K i) : Function.Surjective (ProjRestricts C h) :=
+  Function.Surjective.comp (Homeomorph.surjective _) (surjective_projRestrict _ _)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:144]:
```suggestion
  (Homeomorph.surjective _).comp (surjective_projRestrict _ _)
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 4]
```diff
@@ -0,0 +1,1918 @@
...
+
+variable (J) in
+theorem projRestricts_eq_id  :
+    ProjRestricts C (fun i (h : J i) ↦ h) = id := by
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:148]:
```suggestion
theorem projRestricts_eq_id : ProjRestricts C (fun i (h : J i) ↦ h) = id := by
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 5]
```diff
@@ -0,0 +1,1918 @@
...
+  ext x i
+  simp only [Set.proj, Proj, ProjRestricts_coe, id_eq, ite_eq_left_iff]
+  obtain ⟨y, hy⟩ := x.prop
+  intro h
+  rw [← hy.2, Proj, if_neg h]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:153]:
```suggestion
  ext ⟨x, y, hy, rfl⟩ i
  simp (config := { contextual := true }) only [Set.proj, Proj, ProjRestricts_coe, id_eq, if_true]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 6]
```diff
@@ -0,0 +1,1918 @@
...
+
+theorem projRestricts_eq_comp (hJK : ∀ i, J i → K i) (hKL : ∀ i, K i → L i) :
+    ProjRestricts C hJK ∘ ProjRestricts C hKL = ProjRestricts C (fun i ↦ hKL i ∘ hJK i) := by
+  ext x i
+  simp only [Set.proj, Proj, Function.comp_apply, ProjRestricts_coe]
+  split_ifs with h hh
+  · rfl
+  · exfalso; exact hh (hJK i h)
+  · rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:162]:
```suggestion
  split_ifs with h hh <;> aesop
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 7]
```diff
@@ -0,0 +1,1918 @@
...
+
+theorem projRestricts_comp_projRestrict (h : ∀ i, J i → K i) :
+    ProjRestricts C h ∘ ProjRestrict C K = ProjRestrict C J := by
+  ext x i
+  simp only [Set.proj, Proj, Function.comp_apply, ProjRestricts_coe, ProjRestrict_coe]
+  split_ifs with hh hh'
+  · rfl
+  · exfalso; exact hh' (h i hh)
+  · rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:171]:
```suggestion
  split_ifs with hh hh' <;> aesop
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 8]
```diff
@@ -0,0 +1,1918 @@
...
+/-- The objectwise map in the isomorphism `spanFunctor ≅ Profinite.indexFunctor`. -/
+def iso_map : C(C.proj J, (IndexFunctor.obj C J)) :=
+  ⟨fun x ↦ ⟨fun i ↦ x.val i.val, by
+    obtain ⟨y, hy⟩ := x.prop
+    refine ⟨y, hy.1, ?_⟩
+    rw [precomp, coe_mk, ← hy.2]
+    ext i
+    exact (if_pos i.prop).symm⟩, by
+    refine Continuous.subtype_mk (continuous_pi fun i ↦ ?_) _
+    exact (Continuous.comp (continuous_apply i.val) continuous_subtype_val)⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:186]:
```suggestion
  ⟨fun x ↦ ⟨fun i ↦ x.val i.val, by
    rcases x with ⟨x, y, hy, rfl⟩
    refine ⟨y, hy, ?_⟩
    ext ⟨i, hi⟩
    simp [precomp, Proj, hi]⟩, by
    refine Continuous.subtype_mk (continuous_pi fun i ↦ ?_) _
    exact (continuous_apply i.val).comp continuous_subtype_val⟩
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 9]
```diff
@@ -0,0 +1,1918 @@
...
+    · obtain ⟨c, hc⟩ := a.prop
+      obtain ⟨d, hd⟩ := b.prop
+      rw [← hc.2, ← hd.2, Proj, Proj, if_neg hi, if_neg hi]
+  · refine ⟨⟨fun i ↦ if hi : J i then a.val ⟨i, hi⟩ else false, ?_⟩, ?_⟩
+    · obtain ⟨y, hy⟩ := a.prop
+      refine ⟨y, hy.1, ?_⟩
+      rw [← hy.2]
+      rfl
+    · ext i
+      exact dif_pos i.prop
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:203]:
```suggestion
    · rcases a with ⟨_, c, hc, rfl⟩
      rcases b with ⟨_, d, hd, rfl⟩
      simp only [Proj, if_neg hi]
  · refine ⟨⟨fun i ↦ if hi : J i then a.val ⟨i, hi⟩ else false, ?_⟩, ?_⟩
    · rcases a with ⟨_, y, hy, rfl⟩
      exact ⟨y, hy, rfl⟩
    · ext i
      exact dif_pos i.prop
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 10]
```diff
@@ -0,0 +1,1918 @@
...
+
+variable (K)
+
+lemma iso_naturality (h : ∀ i, J i → K i) :
+    iso_map C J ∘ ProjRestricts C h = IndexFunctor.map C h ∘ iso_map C K := by
+  ext x i
+  simp only [iso_map, ContinuousMap.coe_mk, Function.comp_apply, ProjRestricts_coe,
+    Proj._eq_1, precomp._eq_1, Set.coe_inclusion]
+  rw [if_pos i.prop]
+  rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:213]:
```suggestion
  ext _ ⟨i, hi⟩
  exact if_pos hi
```

**Review by jcommelin — COMMENTED** [review]
line-by-line review of first 200ish lines

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 11]
```diff
@@ -0,0 +1,1918 @@
...
+  ext x
+  dsimp [ProjRestrict]
+  rw [Products.eval_eq, Products.eval_eq]
+  have : ∀ i ∈ l.val, x.val i = if J i then x.val i else false
+  · intro i hi; split_ifs with h' <;> [rfl; simp only [h i hi, not_true] at h']
+  split_ifs with h₁ h₂ h₂
+  · rfl
+  · exfalso; apply h₂; intro i hi; rw [← h₁ i hi]; exact this i hi
+  · exfalso; apply h₁; intro i hi; rw [← h₂ i hi]; exact (this i hi).symm
+  · rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:403]:
```suggestion
  congr
  apply forall_congr; intro i
  apply forall_congr; intro hi
  simp [h i hi, Proj]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 12]
```diff
@@ -0,0 +1,1918 @@
...
+
+theorem evalFacPropsAux {l : Products I} (J K : I → Prop) (hJK : ∀ i, J i → K i)
+    [∀ j, Decidable (J j)] [∀ j, Decidable (K j)] :
+    l.eval (C.proj J) ∘ Homeomorph.setCongr (proj_eq_of_subset C J K hJK) =
+    l.eval ((C.proj K).proj J) := by
+  ext _
+  simp only [Homeomorph.setCongr, Homeomorph.homeomorph_mk_coe, Function.comp_apply,
+    Equiv.setCongr_apply]
+  rw [Products.eval_eq, Products.eval_eq]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:412]:
```suggestion
    Equiv.setCongr_apply, Products.eval_eq]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 13]
```diff
@@ -0,0 +1,1918 @@
...
+    exact Submodule.zero_mem _
+  ext ⟨_, ⟨_, ⟨_, hh⟩⟩⟩
+  rw [eval_eq]
+  split_ifs with h
+  · exfalso
+    apply h'
+    specialize h i hi
+    simp only [← hh, Proj, Bool.ite_eq_true_distrib, if_false_right_eq_and] at h
+    exact h.1
+  · rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:437]:
```suggestion
  ext ⟨_, ⟨_, ⟨_, rfl⟩⟩⟩
  rw [eval_eq, if_neg]
  · rfl
  · intro h
    specialize h i hi
    simp only [Proj, Bool.ite_eq_true_distrib, if_false_right_eq_and] at h
    exact h' h.1
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 14]
```diff
@@ -0,0 +1,1918 @@
...
+def e (i : I) : LocallyConstant C ℤ where
+  toFun := fun f ↦ (if f.val i then 1 else 0)
+  isLocallyConstant := by
+    rw [IsLocallyConstant.iff_continuous]
+    exact Continuous.comp (continuous_of_discreteTopology :
+      Continuous (fun (a : Bool) ↦ (if a then (1 : ℤ) else 0)))
+      (Continuous.comp (continuous_apply i) continuous_subtype_val)
+
+/-- Formal products of the form `e C i₁ ··· e C iᵣ` with `i₁ > ··· > iᵣ`. -/
+def Products (I : Type*) [LinearOrder I] := {l : List I // l.Chain' (·>·)}
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:292]: Have you considered using
```suggestion
def Products (I : Type*) [LinearOrder I] := {l : List I // l.Chain' $ flip (·<·)}
```
as the definition?

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 15]
```diff
@@ -0,0 +1,1918 @@
...
+
+instance : IsWellFounded (Products I) (·<·) := by
+  have : (fun (l m : Products I) ↦ l < m) = (fun l m ↦ List.Lex (·<·) l.val m.val)
+  · ext l m
+    exact Products.lt_iff_lex_lt l m
+  rw [this]
+  have hflip : (·>· : I → I → Prop) = flip (·<· : I → I → Prop) := rfl
+  dsimp [Products]
+  rw [hflip]
+  exact inferInstance
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:447]:
```suggestion
  dsimp [Products]
  have hflip : (·>· : I → I → Prop) = flip (·<· : I → I → Prop) := rfl
  rw [hflip]
  infer_instance
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 16]
```diff
@@ -0,0 +1,1918 @@
...
+  · apply Submodule.subset_span
+    exact ⟨⟨l, hl⟩, rfl⟩
+  · simp only [Products.isGood, not_not] at hl
+    suffices : Products.eval C '' {m | m < l} ⊆ Submodule.span ℤ (Set.range (GoodProducts.eval C))
+    · rw [← Submodule.span_le] at this
+      exact this hl
+    intro a ha
+    obtain ⟨m, hm⟩ := ha
+    rw [← hm.2]
+    exact h m hm.1
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:466]:
```suggestion
    intro a ⟨m, hm, hrfl⟩; cases hrfl -- TODO: why does `intro` not accept a `rfl` pattern here?
    exact h m hm
```

**Review by jcommelin — COMMENTED** [review]
line-by-line comments of the next 200ish lines

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 17]
```diff
@@ -0,0 +1,1866 @@
...
+
+end Products
+
+theorem GoodProducts.span_iff_products : ⊤ ≤ Submodule.span ℤ (Set.range (eval C)) ↔
+    ⊤ ≤ Submodule.span ℤ (Set.range (Products.eval C)) := by
+  refine ⟨fun h ↦ le_trans h (Submodule.span_mono (fun a ⟨b, hb⟩ ↦ ⟨b.val, hb⟩)), fun h ↦ ?_⟩
+  refine le_trans h ?_
+  rw [Submodule.span_le]
+  intro f ⟨l,hl⟩
+  rw [← hl]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:424]:
```suggestion
  intro f ⟨l, hrfl⟩; cases hrfl -- TODO: why does `intro` not accept a `rfl` pattern here?
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 18]
```diff
@@ -0,0 +1,1866 @@
...
+section Fin
+
+variable (J : Finset I)
+
+/-- The `ℤ`-linear map induced by precomposition of the projection `C → C.proj (· ∈ J)`. -/
+noncomputable
+def πJ : LocallyConstant (C.proj (· ∈ J)) ℤ →ₗ[ℤ] LocallyConstant C ℤ :=
+  LocallyConstant.comapₗ ℤ _ (continuous_projRestrict C (· ∈ J))
+
+theorem πJ_of_eval (l : Products I) (hl : l.isGood (C.proj (· ∈ J))) :
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:439]: I don't really understand this name. Should it be something like
```suggestion
theorem eval_eq_πJ (l : Products I) (hl : l.isGood (C.proj (· ∈ J))) :
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 19]
```diff
@@ -0,0 +1,1866 @@
...
+    l.eval C = πJ C J (l.eval (C.proj (· ∈ J))) := by
+  ext f
+  simp only [πJ, LocallyConstant.comapₗ, LinearMap.coe_mk, AddHom.coe_mk,
+    (continuous_projRestrict C (· ∈ J)), LocallyConstant.coe_comap, Function.comp_apply]
+  exact (congr_fun (Products.evalFacProp C (· ∈ J) (Products.prop_of_isGood  C (· ∈ J) hl)) _).symm
+
+theorem mem_J_of_x_true (x : C.proj (· ∈ J)) (i : I) : x.val i = true → i ∈ J := by
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:446]: This name explicitly mentions the variable name `x`. How about
```suggestion
theorem mem_J_of_coeff_true (x : C.proj (· ∈ J)) (i : I) : x.val i = true → i ∈ J := by
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 20]
```diff
@@ -0,0 +1,1866 @@
...
+  intro hi
+  obtain ⟨y, hx⟩ := x.prop
+  rw [← hx.2] at hi
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:449]:
```suggestion
  rcases x with ⟨_, y, hx, hrfl⟩
  cases hrfl -- TODO: why does `rcases` not accept a `rfl` pattern on the previous line?
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 21]
```diff
@@ -0,0 +1,1866 @@
...
+  ext i
+  by_cases hi : i ∈ J
+  · exact congrFun h ⟨i, hi⟩
+  · obtain ⟨x', hx⟩ := x.prop
+    obtain ⟨y', hy⟩ := y.prop
+    rw [← hx.2, ← hy.2]
+    dsimp [Proj]
+    split_ifs with hh
+    · simp only [hh, not_true] at hi
+    · rfl
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:468]:
```suggestion
  intro ⟨_, x, hx, rfl⟩ ⟨_, y, hy, rfl⟩ h
  ext i
  by_cases hi : i ∈ J
  · exact congrFun h ⟨i, hi⟩
  · simp only [Proj, if_neg hi]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 22]
```diff
@@ -0,0 +1,1866 @@
...
+
+
+open Classical in
+/-- The Kronecker delta as a locally constant map from `C.proj (· ∈ J)` to `ℤ`. -/
+noncomputable
+def SpanFinBasis (x : C.proj (· ∈ J)) : LocallyConstant (C.proj (· ∈ J)) ℤ where
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:474]:
```suggestion
def spanFinBasis (x : C.proj (· ∈ J)) : LocallyConstant (C.proj (· ∈ J)) ℤ where
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 23]
```diff
@@ -0,0 +1,1866 @@
...
+  toFun := fun y ↦ if y = x then 1 else 0
+  isLocallyConstant :=
+    haveI : DiscreteTopology (C.proj (· ∈ J)) := discrete_of_t1_of_finite
+    IsLocallyConstant.of_discrete _
+
+open Classical in
+theorem SpanFinBasis.span : ⊤ ≤ Submodule.span ℤ (Set.range (SpanFinBasis C J)) := by
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:481]:
```suggestion
theorem spanFinBasis.span : ⊤ ≤ Submodule.span ℤ (Set.range (SpanFinBasis C J)) := by
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 24]
```diff
@@ -0,0 +1,1866 @@
...
+  ext x
+  change LocallyConstant.evalₗ ℤ x _ = _
+  simp only [zsmul_eq_mul, map_finsupp_sum, LocallyConstant.evalₗ_apply,
+    LocallyConstant.coe_mul, Pi.mul_apply, SpanFinBasis, LocallyConstant.coe_mk, mul_ite, mul_one,
+    mul_zero, Finsupp.sum_ite_eq, Finsupp.mem_support_iff, ne_eq, ite_not]
+  split_ifs with h <;> [exact h.symm; rfl]
+
+/-- A list of locally constant maps whose product is `SpanFinBasis C J x` (see
+    `factors_prod_eq_basis`) -/
+def Factors (x : C.proj (· ∈ J)) : List (LocallyConstant (C.proj (· ∈ J)) ℤ) :=
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:494]:
```suggestion
def factors (x : C.proj (· ∈ J)) : List (LocallyConstant (C.proj (· ∈ J)) ℤ) :=
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 25]
```diff
@@ -0,0 +1,1866 @@
...
+  intro n hn
+  simp only [List.mem_map] at hn
+  obtain ⟨a, ha⟩ := hn
+  rw [← ha.2]
+  dsimp [LocallyConstant.evalMonoidHom]
+  rw [h]
+  dsimp [Factors] at ha
+  simp only [List.mem_map] at ha
+  obtain ⟨b, hb⟩ := ha.1
+  rw [← hb.2]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:516]:
```suggestion
  simp only [h, List.mem_map, LocallyConstant.evalMonoidHom, Factors]
  intro _ ⟨a, ⟨b, _, hrfl₁⟩, hrfl₂⟩; cases hrfl₁; cases hrfl₂
  -- TODO: why does `intro` not accept a `rfl` patterns on the line above?
  dsimp
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 26]
```diff
@@ -0,0 +1,1866 @@
...
+    simp only [LocallyConstant.toFun_eq_coe, LocallyConstant.coe_one, Pi.one_apply, sub_zero]
+
+theorem e_mem_of_eq_true {x : (Set.proj C (· ∈ J))} {a : I} (hx : x.val a = true) :
+    e (Set.proj C (· ∈ J)) a ∈ Factors C J x := by
+  simp only [Factors, List.mem_map]
+  refine ⟨a, ⟨?_, if_pos hx⟩⟩
+  simp only [Finset.mem_sort]
+  obtain ⟨z, hz⟩ := x.prop
+  rw [← hz.2, Proj] at hx
+  simp only [Bool.ite_eq_true_distrib, if_false_right_eq_and] at hx
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:529]:
```suggestion
  rcases x with ⟨_, z, hz, rfl⟩
  simp only [Factors, List.mem_map, Finset.mem_sort]
  refine ⟨a, ⟨?_, if_pos hx⟩⟩
  simp only [Proj, Bool.ite_eq_true_distrib, if_false_right_eq_and] at hx
```

**Review by jcommelin — COMMENTED** [review]
line-by-line comments on the next 100ish lines

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 27]
```diff
@@ -0,0 +1,1843 @@
...
+          refine le_trans hmas ?_
+          by_cases hasnil : as = []
+          · rw [hasnil]
+            apply le_of_lt
+            exact List.nil_lt_cons a []
+          · apply le_of_lt
+            rw [← List.cons_head!_tail hasnil] at ha ⊢
+            rw [List.chain'_cons] at ha
+            have hlex := List.lt.head as.tail (as.head! :: as.tail) ha.1
+            exact (Iff.mp (List.lt_iff_lex_lt _ _) hlex)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:729]:
```suggestion
-- TODO: this lemma is purely about lists, and should be moved to the appropriate API file
theorem GoodProducts.extracted_1
  (a : I) (as : List I) (ha : List.Chain' (fun x x_1 ↦ x > x_1) (a :: as))
  (m : List I) (hm : List.Chain' (fun x x_1 ↦ x > x_1) m)
  (hmas : m ≤ as) : List.Chain' (fun x x_1 ↦ x > x_1) (a :: m) := by
  cases m with
  | nil => simp only [List.chain'_singleton]
  | cons b bs =>
    apply hm.cons
    cases as with
    | nil =>
      simp only [le_iff_lt_or_eq, or_false] at hmas
      exact (List.Lex.not_nil_right (·<·) _ hmas).elim
    | cons a' as =>
      rw [List.chain'_cons] at ha
      refine gt_of_gt_of_ge ha.1 ?_
      rw [le_iff_lt_or_eq] at hmas
      cases' hmas with hmas hmas
      · by_contra' hh
        rw [← not_le] at hmas
        apply hmas
        apply le_of_lt
        exact (List.lt_iff_lex_lt _ _).mp (List.lt.head _ _ hh)
      · simp only [List.cons.injEq] at hmas
        rw [ge_iff_le, le_iff_lt_or_eq]
        exact Or.inr hmas.1

theorem GoodProducts.extracted_2
  (a : I) (as : List I) (ha : List.Chain' (fun x x_1 ↦ x > x_1) (a :: as)) (c : Products I →₀ ℤ)
  (hc : (c.support : Set (Products I)) ⊆ {m | m.val ≤ as})
  (hsm :
    ∀ (c : ℤ) (x : LocallyConstant ↑(Set.proj C fun x ↦ x ∈ J) ℤ),
      e (Set.proj C fun x ↦ x ∈ J) a * c • x = c • (e (Set.proj C fun x ↦ x ∈ J) a * x)) :
  (Finsupp.sum c fun a_1 b ↦ e (Set.proj C fun x ↦ x ∈ J) a * b • Products.eval (Set.proj C fun x ↦ x ∈ J) a_1) ∈
    Submodule.span ℤ (Products.eval (Set.proj C fun x ↦ x ∈ J) '' {m | m.val ≤ a :: as}) := by
  apply Submodule.finsupp_sum_mem
  intro m hm
  rw [hsm]
  apply Submodule.smul_mem
  apply Submodule.subset_span
  have hmas : m.val ≤ as
  · apply hc
    simpa only [Finset.mem_coe, Finsupp.mem_support_iff] using hm
  refine ⟨⟨a :: m.val, ?_⟩, ⟨?_, ?_⟩⟩
  · exact GoodProducts.extracted_1 _ _ ha m.val m.prop hmas
  · simp only [Set.mem_setOf_eq]
    -- TODO: the remaining proof in this subgoal could be extracted into an API lemma
    rw [le_iff_lt_or_eq] at hmas ⊢
    refine hmas.imp ?_ (congr_arg _)
    intro hmas
    have haa : ¬(a < a) := gt_irrefl a
    exact (List.lt_iff_lex_lt _ _).mp
      (List.lt.tail haa haa ((List.lt_iff_lex_lt _ _).mpr hmas))
  · simp only [Products.eval, List.map, List.prod_cons]

theorem GoodProducts.spanFin : ⊤ ≤ Submodule.span ℤ (Set.range (eval (C.proj (· ∈ J)))) := by
  rw [span_iff_products]
  refine le_trans (spanFinBasis.span C J) ?_
  rw [Submodule.span_le]
  intro _ ⟨x, hrfl⟩; cases hrfl -- TODO: why does `intro` not accept a `rfl` pattern here?
  rw [← factors_prod_eq_basis]
  let l := J.sort (·≥·)
  dsimp [factors]
  suffices : l.Chain' (·>·) → (l.map (fun i ↦ if x.val i = true then e (C.proj (· ∈ J)) i
      else (1 - (e (C.proj (· ∈ J)) i)))).prod ∈
      Submodule.span ℤ ((Products.eval (C.proj (· ∈ J))) '' {m | m.val ≤ l})
  · exact Submodule.span_mono (Set.image_subset_range _ _) (this (Finset.sort_chain'_gt _))
  induction l with
  | nil =>
    intro _
    apply Submodule.subset_span
    exact ⟨⟨[], List.chain'_nil⟩,⟨Or.inl rfl, rfl⟩⟩
  | cons a as ih =>
    rw [List.map_cons, List.prod_cons]
    intro ha
    specialize ih (by rw [List.chain'_cons'] at ha; exact ha.2)
    rw [Finsupp.mem_span_image_iff_total] at ih
    simp only [Finsupp.mem_supported, Finsupp.total_apply] at ih
    obtain ⟨c, hc, hc'⟩ := ih
    rw [← hc']; clear hc'
    have hmap := fun g ↦ map_finsupp_sum (LinearMap.mulLeft ℤ (e (C.proj (· ∈ J)) a)) c g
    have hsm := (LinearMap.mulLeft ℤ (e (C.proj (· ∈ J)) a)).map_smul
    dsimp at hsm hmap ⊢
    split_ifs
    · rw [hmap]
      exact GoodProducts.extracted_2 _ _ _ _ ha _ hc hsm
    · ring_nf
      rw [hmap]
      apply Submodule.add_mem
      · apply Submodule.neg_mem
        exact GoodProducts.extracted_2 _ _ _ _ ha _ hc hsm
      · apply Submodule.finsupp_sum_mem
        intro m hm
        apply Submodule.smul_mem
        apply Submodule.subset_span
        refine ⟨m, ⟨?_, rfl⟩⟩
        simp only [Set.mem_setOf_eq]
        have hmas : m.val ≤ as :=
          hc (by simpa only [Finset.mem_coe, Finsupp.mem_support_iff] using hm)
        refine le_trans hmas ?_
        cases as with
        | nil => exact (List.nil_lt_cons a []).le
        | cons b bs =>
          apply le_of_lt
          rw [List.chain'_cons] at ha
          have hlex := List.lt.head bs (b :: bs) ha.1
          exact (List.lt_iff_lex_lt _ _).mp hlex
```

**Review by jcommelin — COMMENTED** [review]
The next chunk. It's not completely polished, but it's a refactor in the right direction.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 28]
```diff
@@ -0,0 +1,1843 @@
...
+  by_cases hc : c = 0
+  · exact Or.inl hc
+  · right
+    ext x
+    rw [LocallyConstant.ext_iff] at h
+    apply_fun fun (y : ℤ) ↦ c * y
+    · simp at h
+      simp
+      exact h x
+    · exact mul_right_injective₀ hc
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:881]:
```suggestion
  rw [or_iff_not_imp_left]
  intro hc
  ext x
  apply mul_right_injective₀ hc
  simp [LocallyConstant.ext_iff] at h ⊢
  exact h x
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 29]
```diff
@@ -0,0 +1,1843 @@
...
+
+theorem isClosed_proj (o : Ordinal) (hC : IsClosed C) : IsClosed (C.proj (ord I · < o)) :=
+  (continuous_proj (ord I · < o)).isClosedMap C hC
+
+theorem contained_proj (o : Ordinal) : contained (C.proj (ord I · < o)) o := by
+  intro x hx j hj
+  obtain ⟨_, ⟨_, h⟩⟩ := hx
+  dsimp [Proj] at h
+  rw [← congr_fun h j] at hj
+  simp only [Bool.ite_eq_true_distrib, if_false_right_eq_and] at hj
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:906]:
```suggestion
  intro x ⟨_, ⟨_, h⟩⟩ j hj
  dsimp [Proj] at h
  simp only [← congr_fun h j, Bool.ite_eq_true_distrib, if_false_right_eq_and] at hj
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 30]
```diff
@@ -0,0 +1,1843 @@
...
+theorem injective_πs' {o₁ o₂ : Ordinal} (h : o₁ ≤ o₂) : Function.Injective (πs' C h) :=
+  LocallyConstant.comap_injective _ (continuous_projRestricts _ _) (surjective_projRestricts _ _)
+
+end Maps
+
+section ProductsFactorisation
+
+namespace Products
+
+theorem lt_of_head!_lt {l : Products I} {o : Ordinal}
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:945]: This looks like another place where some extra list/lex/ordinal API can make this proof a 1-liner

**Review by jcommelin — COMMENTED** [review]
And another batch

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 31]
```diff
@@ -0,0 +1,1843 @@
...
+    rw [← eval_πs C (lt_ord_of_lt hm.1 hl)] at hm
+    rw [← hm.2]
+    simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
+    use m
+    exact ⟨hm.1, by rfl⟩
+  · rw [← Set.image_comp] at hf
+    obtain ⟨m,hm⟩ := hf
+    rw [← hm.2, Function.comp_apply, eval_πs C (lt_ord_of_lt hm.1 hl)]
+    simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
+    exact ⟨m, ⟨hm.1, by rfl⟩⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:921]:
```suggestion
  simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
  apply exists_congr; intro m
  apply and_congr_right; intro hm
  rw [eval_πs C (lt_ord_of_lt hm hl)]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 32]
```diff
@@ -0,0 +1,1843 @@
...
+    rw [← hm.2]
+    simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
+    use m
+    exact ⟨hm.1, by rfl⟩
+  · rw [← Set.image_comp] at hf
+    obtain ⟨m,hm⟩ := hf
+    rw [← hm.2, Function.comp_apply, eval_πs' C h (lt_ord_of_lt hm.1 hl)]
+    simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
+    use m
+    exact ⟨hm.1, by rfl⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:939]:
```suggestion
  simp only [Set.mem_image, Set.mem_setOf_eq, exists_exists_and_eq_and]
  apply exists_congr; intro m
  apply and_congr_right; intro hm
  rw [eval_πs' C h (lt_ord_of_lt hm hl)]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 33]
```diff
@@ -0,0 +1,1843 @@
...
+
+theorem head_lt_ord_of_isGood {l : Products I} {o : Ordinal}
+    (h : l.isGood (C.proj (ord I · < o))) : l.val ≠ [] → ord I (l.val.head!) < o :=
+  fun hn ↦ prop_of_isGood  C (ord I · < o) h l.val.head! (List.head!_mem_self hn)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:943]:
```suggestion
    (h : l.isGood (C.proj (ord I · < o))) (hn : l.val ≠ []) : ord I (l.val.head!) < o :=
  prop_of_isGood C (ord I · < o) h l.val.head! (List.head!_mem_self hn)
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 34]
```diff
@@ -0,0 +1,1843 @@
...
+
+theorem isGood_mono {l : Products I} {o₁ o₂ : Ordinal} (h : o₁ ≤ o₂)
+    (hl : l.isGood (C.proj (ord I · < o₁))) : l.isGood (C.proj (ord I · < o₂)) := by
+  intro hl'
+  apply hl
+  rwa [eval_πs_image' C h (prop_of_isGood  C _ hl),
+    ← eval_πs' C h (prop_of_isGood  C _ hl),
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:950]:
```suggestion
  rwa [eval_πs_image' C h (prop_of_isGood  C _ hl), ← eval_πs' C h (prop_of_isGood  C _ hl),
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 35]
```diff
@@ -0,0 +1,1843 @@
...
+/-- The image of the `GoodProducts` for `C.proj (ord I · < o)` in `LocallyConstant C ℤ` -/
+def smaller (o : Ordinal) : Set (LocallyConstant C ℤ) :=
+  (πs C o) '' (range (C.proj (ord I · < o)))
+
+/-- The map from the image of the `GoodProducts` in `LocallyConstant (C.proj (ord I · < o)) ℤ`
+    to `smaller C o` -/
+noncomputable
+def range_equiv_smaller_toFun (o : Ordinal) :
+    range (C.proj (ord I · < o)) → smaller C o :=
+  fun x ↦ ⟨πs C o ↑x, by dsimp [smaller]; use x.val; exact ⟨x.property, rfl⟩ ⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:970]:
```suggestion
def range_equiv_smaller_toFun (o : Ordinal) (x : range (C.proj (ord I · < o))) : smaller C o :=
  ⟨πs C o ↑x, x.val, x.property, rfl⟩
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 36]
```diff
@@ -0,0 +1,1843 @@
...
+  refine ⟨fun a b hab ↦ ?_, fun ⟨a,ha⟩ ↦ ?_⟩
+  · dsimp [range_equiv_smaller_toFun] at hab
+    ext1
+    simp only [Subtype.mk.injEq] at hab
+    exact injective_πs C o hab
+  · obtain ⟨b,hb⟩ := ha
+    use ⟨b,hb.1⟩
+    dsimp [range_equiv_smaller_toFun]
+    simp only [Subtype.mk.injEq]
+    exact hb.2
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:983]:
```suggestion
  dsimp [range_equiv_smaller_toFun]
  refine ⟨fun a b hab ↦ ?_, fun ⟨a, b, hb⟩ ↦ ?_⟩
  · ext1
    simp only [Subtype.mk.injEq] at hab
    exact injective_πs C o hab
  · use ⟨b, hb.1⟩
    simpa only [Subtype.mk.injEq] using hb.2
```

**Review by jcommelin — COMMENTED** [review]
And another batch

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 37]
```diff
@@ -0,0 +1,1754 @@
...
+    have haa : ¬(a < a) := gt_irrefl a
+    exact (List.lt_iff_lex_lt _ _).mp
+      (List.lt.tail haa haa ((List.lt_iff_lex_lt _ _).mpr hmas))
+  · simp only [Products.eval, List.map, List.prod_cons]
+
+theorem GoodProducts.spanFin : ⊤ ≤ Submodule.span ℤ (Set.range (eval (C.proj (· ∈ J)))) := by
+  rw [span_iff_products]
+  refine le_trans (spanFinBasis.span C J) ?_
+  rw [Submodule.span_le]
+  intro _ ⟨x, hrfl⟩; cases hrfl -- TODO: why does `intro` not accept a `rfl` pattern here?
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:612]: Apparently there is a difference between `intro` and `rintro`. I thought this was gone in Lean 4.
```suggestion
  rintro _ ⟨x, rfl⟩
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 38]
```diff
@@ -0,0 +1,1754 @@
...
+def C0 := C ∩ {f | f (term I ho) = false}
+
+/-- The subset of `C` consisting of those elements whose `o`-th entry is `true`. -/
+def C1 := C ∩ {f | f (term I ho) = true}
+
+theorem isClosed_C0 : IsClosed (C0 C ho) := by
+  refine IsClosed.inter hC ?_
+  have h : Continuous ((fun f ↦ f (term I ho) : (I → Bool) → Bool)) :=
+      continuous_apply (term I ho)
+  exact (continuous_iff_isClosed.mp h) {false} (isClosed_discrete _)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1073]:
```suggestion
  refine hC.inter ?_
  have h : Continuous (fun (f : I → Bool) ↦ f (term I ho)) := continuous_apply (term I ho)
  exact IsClosed.preimage h (s := {false}) (isClosed_discrete _)
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 39]
```diff
@@ -0,0 +1,1754 @@
...
+
+theorem isClosed_C1 : IsClosed (C1 C ho) := by
+  refine IsClosed.inter hC ?_
+  have h : Continuous ((fun f ↦ f (term I ho) : (I → Bool) → Bool)) :=
+      continuous_apply (term I ho)
+  exact (continuous_iff_isClosed.mp h) {true} (isClosed_discrete _)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1079]:
```suggestion
  refine hC.inter ?_
  have h : Continuous (fun (f : I → Bool) ↦ f (term I ho)) := continuous_apply (term I ho)
  exact IsClosed.preimage h (s := {true}) (isClosed_discrete _)
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 40]
```diff
@@ -0,0 +1,1754 @@
...
+    exact hx.1
+  · dsimp [C0, C1]
+    simp only [Set.mem_union, Set.mem_inter_iff, Set.mem_setOf_eq]
+    rw [← and_or_left]
+    refine ⟨hx, ?_⟩
+    by_cases h : x (term I ho) = false
+    · left
+      assumption
+    · right
+      simpa only [← Bool.not_eq_false]
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1099]:
```suggestion
  simp only [C0, C1, Set.mem_union, Set.mem_inter_iff, Set.mem_setOf_eq,
    ← and_or_left, and_iff_left_iff_imp, Bool.dichotomy (x (term I ho)), implies_true]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 41]
```diff
@@ -0,0 +1,1754 @@
...
+  fun f i ↦ if ord I i = o then true else f i
+
+theorem continuous_swapTrue  :
+    Continuous (SwapTrue o : (I → Bool) → I → Bool) := by
+  refine continuous_pi ?_
+  intro i
+  dsimp [SwapTrue]
+  split_ifs
+  · exact continuous_const
+  · exact continuous_apply _
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1124]:
```suggestion
  dsimp [SwapTrue]
  continuity? says
    apply continuous_pi
    intro i
    apply Continuous.comp'
    · apply continuous_bot
    · apply continuous_apply
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 42]
```diff
@@ -0,0 +1,1754 @@
...
+    exact hg.1.2.symm
+  · dsimp [Proj] at hg
+    rw [← congr_fun hg.2 i]
+    simp only [ite_eq_left_iff, not_lt]
+    intro h'
+    have hh := Order.succ_le_of_lt (lt_of_le_of_ne h' (Ne.symm h))
+    specialize hsC g hg.1.1 i
+    rw [← not_imp_not] at hsC
+    simp only [not_lt, Bool.not_eq_true] at hsC
+    exact (hsC hh).symm
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1147]:
```suggestion
  obtain ⟨f, g, hg, rfl⟩ := f
  convert hg
  dsimp [SwapTrue]
  ext i
  split_ifs with h
  · rw [ord_term ho] at h
    simpa only [← h] using hg.2.symm
  · simp only [Proj, ite_eq_left_iff, not_lt, @eq_comm _ false, ← Bool.not_eq_true]
    specialize hsC g hg.1 i
    intro h'
    contrapose! hsC
    exact ⟨hsC, Order.succ_le_of_lt (h'.lt_of_ne' h)⟩
```

**Review by jcommelin — COMMENTED** [review]
And another batch

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 43]
```diff
@@ -0,0 +1,1731 @@
...
+        refine lt_of_le_of_ne (h' a ha) ?_
+        rw [ne_eq, ord_term ho a]
+        intro hta
+        simp only [hta, ha, not_true] at hh
+      rwa [Products.eval_πs_image C hh', ← Products.eval_πs C hh',
+        Submodule.apply_mem_span_image_iff_mem_span (injective_πs _ _)]
+  · refine Or.elim h (fun hh ↦ ?_) (fun hh ↦ ?_)
+    · have := Products.isGood_mono C (le_of_lt (Order.lt_succ o)) hh
+      rwa [contained_eq_proj C (Order.succ o) hsC]
+    · exact hh.1
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1290]:
```suggestion
  simp only [GoodProducts, MaxProducts, Set.mem_union, Set.mem_setOf_eq]
  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
  · by_cases hh : term I ho ∈ l.val
    · exact Or.inr ⟨h, hh⟩
    · left
      intro he
      apply h
      have h' := Products.prop_of_isGood_of_contained C _ h hsC
      simp only [Order.lt_succ_iff] at h'
      simp only [not_imp_not] at hh
      have hh' : ∀ a ∈ l.val, ord I a < o
      · intro a ha
        refine (h' a ha).lt_of_ne ?_
        rw [ne_eq, ord_term ho a]
        rintro rfl
        contradiction
      rwa [Products.eval_πs_image C hh', ← Products.eval_πs C hh',
        Submodule.apply_mem_span_image_iff_mem_span (injective_πs _ _)]
  · refine h.elim (fun hh ↦ ?_) And.left
    have := Products.isGood_mono C (Order.lt_succ o).le hh
    rwa [contained_eq_proj C (Order.succ o) hsC]
```

**Comment by dagurtomas** [comment]
@jcommelin #7895, #7896, #7897 and #7899 are some general lemmas about lists that I extracted according to your suggestions.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 44]
```diff
@@ -0,0 +1,1731 @@
...
+  · exact ⟨fun ⟨m,hm⟩ ↦ by rw [← hm]; exact m.prop, fun hl ↦ ⟨⟨l,hl⟩, rfl⟩⟩
+  · exact ⟨fun ⟨m,hm⟩ ↦ by rw [← hm]; exact m.prop, fun hl ↦ ⟨⟨l,hl⟩, rfl⟩⟩
+
+/-- The equivalence from the sum of `GoodProducts (C.proj (ord I · < o))` and
+    `(MaxProducts C ho)` to `GoodProducts C`. -/
+noncomputable
+def sum_equiv : GoodProducts (C.proj (ord I · < o)) ⊕ (MaxProducts C ho) ≃ GoodProducts C :=
+  Equiv.trans (Equiv.trans (Equiv.ofInjective (sum_to C ho) (injective_sum_to C ho))
+    (Equiv.Set.ofEq (sum_to_range C ho)))
+    (Equiv.Set.ofEq (union_succ C hsC ho).symm)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1316]:
```suggestion
  calc _ ≃ Set.range (sum_to C ho) := Equiv.ofInjective (sum_to C ho) (injective_sum_to C ho)
       _ ≃ _ := Equiv.Set.ofEq <| by rw [sum_to_range C ho, union_succ C hsC ho]
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 45]
```diff
@@ -0,0 +1,1731 @@
...
+  rfl
+
+end GoodProducts
+
+theorem swapTrue_eq_true : ∀ x, SwapTrue o x (term I ho) = true := by
+  intro x
+  dsimp [SwapTrue]
+  split_ifs with h
+  · rfl
+  · simp only [ord_term_aux, not_true] at h
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1378]:
```suggestion
theorem swapTrue_eq_true (x : I → Bool) : SwapTrue o x (term I ho) = true := by
  simp only [SwapTrue, ord_term_aux, ite_true]
```

**Review by jcommelin — COMMENTED** [review]
A few more comments

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 46]
```diff
@@ -0,0 +1,1668 @@
...
+    · exfalso; rwa [mem_C'_eq_false C ho x x.prop, Bool.coe_false] at hh₂
+    · rfl
+    · exfalso; exact hh₁ (swapTrue_eq_true _ _)
+    · exfalso; exact hh₁ (swapTrue_eq_true _ _)
+  · push_neg at h₂; obtain ⟨i, hi⟩ := h₂; exfalso; rw [hi' i hi.1] at hi; exact hi.2 (h₁ i hi.1)
+  · push_neg at h₂; obtain ⟨i, hi⟩ := h₂; exfalso; rw [hi' i hi.1] at hi; exact hi.2 (h₁ i hi.1)
+  · push_neg at h₂; obtain ⟨i, hi⟩ := h₂; exfalso; rw [hi' i hi.1] at hi; exact hi.2 (h₁ i hi.1)
+  · push_neg at h₁; obtain ⟨i, hi⟩ := h₁; exfalso; rw [← hi' i hi.1] at hi; exact hi.2 (h₄ i hi.1)
+  · push_neg at h₁; obtain ⟨i, hi⟩ := h₁; exfalso; rw [← hi' i hi.1] at hi; exact hi.2 (h₄ i hi.1)
+  · push_neg at h₁; obtain ⟨i, hi⟩ := h₁; exfalso; rw [← hi' i hi.1] at hi; exact hi.2 (h₆ i hi.1)
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1432]:
```suggestion
  simp only [Linear_CC', Linear_CC'₀, Linear_CC'₁, LocallyConstant.comapₗ, Subtype.coe_eta,
    LinearMap.sub_apply, LinearMap.coe_mk, AddHom.coe_mk, LocallyConstant.sub_apply,
    continuous_CC'₀, continuous_CC'₁, LocallyConstant.coe_comap, LocallyConstant.coe_mul,
    Function.comp_apply, Pi.mul_apply]
  rw [CC'₁, CC'₀, Products.eval_eq, Products.eval_eq, Products.eval_eq]
  simp only [mul_ite, mul_one, mul_zero]
  have hi' : ∀ i, i ∈ l.Tail.val → (x.val i = SwapTrue o x.val i)
  · intro i hi
    simp only [SwapTrue, @eq_comm _ (x.val i), ite_eq_right_iff, ord_term ho]
    rintro rfl
    exact ((List.Chain.rel hlc hi).ne rfl).elim
  have H :
    (∀ i, i ∈ l.Tail.val → (x.val i = true)) = (∀ i, i ∈ l.Tail.val → (SwapTrue o x.val i = true))
  · apply forall_congr; intro i; apply forall_congr; intro hi; rw [hi' i hi]
  simp only [H]
  split_ifs with h₁ h₂ h₃ <;> dsimp [e]
  · rw [if_pos (swapTrue_eq_true _ _), if_neg]
    · rfl
    · simp [mem_C'_eq_false C ho x x.prop, Bool.coe_false]
  · push_neg at h₂; obtain ⟨i, hi⟩ := h₂; exfalso; rw [hi' i hi.1] at hi; exact hi.2 (h₁ i hi.1)
  · push_neg at h₁; obtain ⟨i, hi⟩ := h₁; exfalso; rw [← hi' i hi.1] at hi; exact hi.2 (h₃ i hi.1)
```

**Comment by dagurtomas** [comment]
I can't figure out how to make CI happy with these `continuity? says` statements. It produces a useless `rename_i` statement that CI wants me to include, but if I do that then the unused variables linter complains.

**Comment by jcommelin** [comment]
This seems to be getting in a pretty good shape. There are still some open TODOs. Could you please take a look at those? (And merge master after the dependent PRs have been merged.)

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 47]
```diff
@@ -0,0 +1,1549 @@
...
+
+/-- The image of the good products in the module `LocallyConstant C ℤ`. -/
+def range := Set.range (GoodProducts.eval C)
+
+/-- The type of good products is equivalent to its image. -/
+noncomputable
+def equiv_range : GoodProducts C ≃ range C :=
+  Equiv.ofInjective (eval C) (injective C)
+
+theorem equiv_toFun_eq_eval : (equiv_range C).toFun = Set.rangeFactorization (eval C) := by rfl
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:285]:
```suggestion
theorem equiv_toFun_eq_eval : (equiv_range C).toFun = Set.rangeFactorization (eval C) := rfl
```
Because not going into tactic mode saves vital milliseconds :-)

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 48]
```diff
@@ -0,0 +1,1549 @@
...
+    simp only [Proj, Bool.ite_eq_true_distrib, if_false_right_eq_and] at h
+    exact h' h.1
+
+instance : IsWellFounded (Products I) (·<·) := by
+  have : (· < · : Products I → _ → _) = (fun l m ↦ List.Lex (·<·) l.val m.val) := by
+    ext; exact lt_iff_lex_lt _ _
+  rw [this]
+  dsimp [Products]
+  rw [(by rfl : (·>· : I → _) = flip (·<·))]
+  infer_instance
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:354]: I think this instance should go straight after `lt_iff_lex_lt` on line 242, rather than here.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 49]
```diff
@@ -0,0 +1,1549 @@
...
+
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:355]:
```suggestion
/-- An arbitrary product `e C i₁ * e C i₂ * ... * e C iᵣ` is in the ℤ-span of
the good products. -/
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 50]
```diff
@@ -0,0 +1,1549 @@
...
+    exact ⟨⟨l, hl⟩, rfl⟩
+  · simp only [Products.isGood, not_not] at hl
+    suffices : Products.eval C '' {m | m < l} ⊆ span ℤ (Set.range (GoodProducts.eval C))
+    · rw [← span_le] at this
+      exact this hl
+    rintro a ⟨m, hm, rfl⟩
+    exact h m hm
+
+end Products
+
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:374]:
```suggestion
/-- The good products span `LocallyConstant C ℤ` if and only all the products do. -/
```

**Review by kbuzzard — COMMENTED** [review]
Dagur I would really like to review this, but it's huge so I propose doing it in parts. I've got up to line 400 and so far it looks great. I really hope to have read to the end by Monday, but I need to do other things now and I'm slightly worried that someone will merge it before I'm done (it's clearly pretty much ready), so to make sure I've not wasted my time I'll post this partial review now, and will come back to this later.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 51]
```diff
@@ -0,0 +1,1549 @@
...
+The basis will consist of products `e S iᵣ * ⋯ * e S i₁` with `iᵣ > ⋯ > i₁` which cannot be written
+as linear combinations of lexicographically smaller products.
+
+What is proved by ordinal induction is that this set is linearly independent. The fact that it
+spans can be proved directly.
+
+## References
+
+- [scholze2019condensed]: *Lectures on Condensed Mathematics*, 2019.
+
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:40]: Hmm, maybe the correct thing to do is something like
```suggestion
- [scholze2019condensed], Theorem 5.4.
```
Then it's clear that `[scholze2019condensed]` is a pointer to the `.bib` file, and we give a precise ref to the theorem.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 52]
```diff
@@ -0,0 +1,1549 @@
...
+/-- The projection mapping everything that satisfies `J i` to itself, and everything else to
+    `false` -/
+def Proj : (I → Bool) → (I → Bool) :=
+  fun c i ↦ if J i then c i else false
+
+@[simp]
+theorem continuous_proj :
+    Continuous (Proj J : (I → Bool) → (I → Bool)) := by
+  dsimp [Proj]
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:63]: non-terminal dsimps are much less harmful then non-terminal simps. They aren't 100% safe, but they are certainly considered safe enough to be allowed in mathlib.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 53]
```diff
@@ -0,0 +1,1556 @@
...
+  apply continuous_pi
+  intro i
+  split
+  · apply continuous_apply
+  · apply continuous_const
+
+/-- The image of `Proj π J` -/
+def π : Set (I → Bool) := (Proj J) '' C
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:71]: This definition makes me sad. Why is the order of the inputs `C` then `J`?
Consider the alternative `π '` (you can run this code just after the definition of `π`):
```lean
variable (C : Set (I → Bool)) (J : I → Prop)
  [(i : I) → Decidable (J i)]

#check π C J -- Set (I → Bool)

def π' {I : Type u} (J : I → Prop) [(i : I) → Decidable (J i)]
    (C : Set (I → Bool)) : Set (I → Bool) := Set.image (Proj J) C

example : π' J C = π C J := rfl

example : π' J = Set.image (Proj J) := rfl
```
`π'` and `π` are "the same thing" as far as a mathematician is concerned, but if you switch the order of the inputs then you can see that we already have `\pi'` (it's `Set.image \circ Proj`) so we don't need another definition at all. Is it possible to get a machine to do the refactor replacing all `\pi` by `\pi'` and then you can just make `\pi'` an `abbrev` and then rename it to `pi`. This will make automation work better and might also help getting a better understanding of this `\pi` map.

Comment (kbuzzard) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:71]: OK from talking to Mario it sounds like this is hard to do programatically and arguably pointless because it's a one-off definition in a self-contained proof.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 54]
```diff
@@ -0,0 +1,1556 @@
...
+end Products
+
+end ProductsFactorisation
+
+section Smaller
+
+namespace GoodProducts
+
+/-- The image of the `GoodProducts` for `π C (ord I · < o)` in `LocallyConstant C ℤ` -/
+def smaller (o : Ordinal) : Set (LocallyConstant C ℤ) :=
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:837]: why is this called "smaller"? You just started a new section -- give it a docstring just explaining in a few words what the point of this section is. The clue `smaller` is not enough for me.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 55]
```diff
@@ -0,0 +1,1556 @@
...
+  exact linearIndependent_equiv (range_equiv C ho hsC)
+
+end Limit
+
+section Successor
+
+variable {o : Ordinal} (hC : IsClosed C) (hsC : contained C (Order.succ o))
+  (ho : o < Ordinal.type (·<· : I → I → Prop))
+
+section ExactSequence
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:947]: What will be happening in this section? Is the main theorem `succ_exact`?

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 56]
```diff
@@ -0,0 +1,1556 @@
...
+  · simpa only [ModuleCat.ofHom, ← hy] using CC_comp_zero _ _ _ y
+  · exact CC_exact _ hC _ ho hf
+
+end ExactSequence
+
+section GoodProducts
+
+namespace GoodProducts
+
+/-- The `GoodProducts` in `C` that contain `o` (they necessarily start with `o`, see
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1140]: I do not understand this comment. If o is an arbitrary ordinal then a list containing o might not stat with o surely? What am I missing?

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 57]
```diff
@@ -0,0 +1,1556 @@
...
+  by_cases h : q.val.val = []
+  · rw [h, max_eq_o_cons_tail C hsC ho l]
+    exact List.Lex.nil
+  · rw [← List.cons_head!_tail h, max_eq_o_cons_tail C hsC ho l]
+    apply List.Lex.rel
+    rw [← Ordinal.typein_lt_typein (·<·)]
+    simp only [term, Ordinal.typein_enum]
+    exact Products.prop_of_isGood C _ q.prop q.val.val.head! (List.head!_mem_self h)
+
+theorem maxTail_isGood (l : MaxProducts C ho)
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1362]: This theorem has a huge proof, no docstring, and no comments at all in the proof. Can you at least say what the theorem says and sketch a proof with a few comments in the proof code?

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 58]
```diff
@@ -0,0 +1,1556 @@
...
+noncomputable
+def GoodProducts.Basis (hC : IsClosed C) :
+    Basis (GoodProducts C) ℤ (LocallyConstant C ℤ) :=
+  Basis.mk (GoodProducts.linearIndependent C hC) (GoodProducts.span C hC)
+
+end Induction
+
+variable {S : Profinite} {ι : S → I → Bool} (hι : ClosedEmbedding ι)
+
+theorem Nobeling : Module.Free ℤ (LocallyConstant S ℤ) := Module.Free.of_equiv'
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1513]: You call it Nobeling and again no docstring (so people browsing the code will be confused). Big docstring stating the theorem. Also: the type of Nobeling involves iota and hiota, this should perhaps be called Nobeling in your namespace. You could add a docstring explaining why it's not the final version and directing people to the stronger claim.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 59]
```diff
@@ -0,0 +1,1556 @@
...
+  · intro a b h
+    by_contra hn
+    obtain ⟨C, hC, hh⟩ := exists_clopen_of_totally_separated hn
+    apply hh.2 ∘ of_decide_eq_true
+    dsimp [ι] at h
+    rw [← congr_fun h ⟨C, hC⟩]
+    exact decide_eq_true hh.1
+
+/-- Nöbeling's theorem: the `ℤ`-module `LocallyConstant S ℤ` is free for every `S : Profinite` -/
+theorem Nobeling : Module.Free ℤ (LocallyConstant S ℤ) :=
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:1553]: I don't think this should go in the root namespace? Why not put this in your namespace, call it Nobeling (although do we have a convention that Nobeling should be the name of the theorem
statement not the proof?) and the other one that nobody should ever use Nobeling_aux.

**Review by kbuzzard — COMMENTED** [review]
OK I've looked at it all. It's a tour de force. I do wish there was tighter integration with a manuscript, or more comments guiding the reader what is happening in the proof. There are entire sections containing huge proofs with no explanation of what is going on in them. I would rather see a few more docstrings -- you are in a much better position to write them than me. Give the reader scrolling through the docs on the web some kind of overview.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 60]
```diff
@@ -0,0 +1,1556 @@
...
+    exact ⟨⟨l, hl⟩, rfl⟩
+  · simp only [Products.isGood, not_not] at hl
+    suffices : Products.eval C '' {m | m < l} ⊆ span ℤ (Set.range (GoodProducts.eval C))
+    · rw [← span_le] at this
+      exact this hl
+    rintro a ⟨m, hm, rfl⟩
+    exact h m hm
+
+end Products
+
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:402]:
```suggestion
/-!

## The good products span.

Most of the argument is developing an API for `π C (· ∈ J)`
when `J : Finset I`; then the image of `C` is finite
with the discrete topology.
In this case, there is a direct argument that
the good products span. The general result is deduced
from this.

## Main theorems

`GoodProducts.spanFin` : The good products span the locally constant
functions on `π C (· ∈ J)` if `J` is finite.
`GoodProducts.span` : The good products span as long as `C` is closed.
-/
```

Comment (kbuzzard) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:402]: Feel free to improve!

**Comment by dagurtomas** [comment]
Thanks for your comments Kevin! I'll look through them now and try to improve the overall documentation.

**Comment by dagurtomas** [comment]
I've added lots of documentation and put everything in the `Profinite` namespace.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 61]
```diff
@@ -0,0 +1,1549 @@
...
+theorem proj_prop_eq_self (hh : ∀ i x, x ∈ C → x i ≠ false → J i) : π C J = C := by
+  ext x
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · obtain ⟨y, hy, rfl⟩ := h; rwa [proj_eq_self]; exact (hh · y hy)
+  · refine ⟨x, h, ?_⟩; rw [proj_eq_self]; exact (hh · x h)
+
+theorem proj_comp_of_subset (h : ∀ i, J i → K i) : (Proj J ∘ Proj K) =
+    (Proj J : (I → Bool) → (I → Bool)) := by
+  ext x i; dsimp [Proj]; aesop
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:125]: (I did this)

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 62]
```diff
@@ -0,0 +1,1827 @@
...
+  rintro l ⟨y, ⟨m, rfl⟩, rfl⟩
+  exact ⟨m.val, eval_eq_πJ C K m.val m.prop⟩
+
+end Span
+
+/-!
+
+## Relating elements of the well-order `I` with ordinals
+
+We choose a well-ordering on `I`. This amounts to regarding `I` as an ordinal, and as such it is
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:700]:
```suggestion
We choose a well-ordering on `I`. This amounts to regarding `I` as an ordinal, and as such it
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 63]
```diff
@@ -0,0 +1,1827 @@
...
+  contrapose! h'
+  exact hsC x.val x.prop i (h'.1 i hi)
+
+end Ordinal
+
+/-!
+
+## The zero case of the induction
+
+In this case, we have `contained C 0` which means that `C` is eiter empty or a singleton.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:776]:
```suggestion
In this case, we have `contained C 0` which means that `C` is either empty or a singleton.
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 64]
```diff
@@ -0,0 +1,1827 @@
...
+
+* `term I ho` is a sufficiently small ordinal regarded as a term of `I`.
+
+* `contained C o` is a predicate saying that `C` is "small" enough in relation to the ordinal `o`
+  to satisfy the inductive hypothesis.
+
+* `P I` is the predicate on ordinals about linear independence of good products, which the rest of
+  this file is spent on proving by induction.
+-/
+section Ordinal
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:715]: I think it would be technically a little bit better to put the module docstring for a section after the start of the section. So please move `section Ordinal` just above the module docstring that documents it.

Also elsewhere.

File: Mathlib/Topology/Category/Profinite/Nobeling.lean [hunk 65]
```diff
@@ -0,0 +1,1827 @@
...
+
+### Main definitions
+
+* `πs` and `πs'` are the `ℤ`-linear maps corresponding to `ProjRestrict` and `ProjRestricts` 
+  respectively.
+
+### Main result
+
+* We prove that `πs` and `πs'` interact well with `Products.eval` and the main application is the
+  theorem `isGood_mono` which says that the property being good is "monotone" on ordinals.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Nobeling.lean:869]:
```suggestion
  theorem `isGood_mono` which says that the property `isGood` is "monotone" on ordinals.
```

File: Mathlib/Topology/Category/Profinite/Nobeling.lean (hunk 59 above)
Comment (jcommelin) [reply Mathlib/Topology/Category/Profinite/Nobeling.lean:1822]: Isn't `Module.Free` a class? Then this could be an instance, right?
I would prefer to call it `LocallyConstant.freeOfProfinite`, and only mention Nobeling in the docstring.

**Review by jcommelin — COMMENTED** [review]
Wow! Thanks for all that documentation. Massive improvement.

A few more minor nitpicks. But this is now very close to merging.

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+
